US08349880B2
2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-9-ol
To a suspension of 2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7,8-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-9(6H)-one (28 mg, 0.075 mmol) in THF (0.5 mL) was added (4-fluorophenyl)magnesium bromide/THF (0.188 mL, 0.188 mmol) at −20° C. under nitrogen. After warming from −20° C. to rt, the mixture was stirred for 16 h. An additional portion of (4-fluorophenyl)magnesium bromide/THF (0.225 mL, 0.225 mmol) was added. The rxn was stirred an additional 3 h at rt, then 4 h at 60° C. The reaction mixture was concentrated in vacuo. The crude residue was dissolved in dichloromethane (2 mL). The solution was washed with water (1 mL) and then loaded onto silica gel. The crude product was purified using silica gel column chromatography (0-80% EtOAc/hexanes). The fractions containing product were combined and concentrated. The residue was repurified using reverse phase preparatory HPLC (AcCN/water/ammonium acetate) to afford the titled compound (3.4 mg, 7.25 μmol, 9.7% yield). LC-MS (M+H)+=469.1. 1H NMR (500 MHz, chloroform-d) δ ppm 1.43-1.52 (m, 1 H) 1.82-1.95 (m, 2 H) 1.99-2.10 (m, 1 H) 2.11-2.21 (m, 1 H) 2.59 (ddd, J=14.34, 6.41, 2.14 Hz, 1 H) 3.85 (s, 3 H) 3.86-3.93 (m, 1 H) 4.43 (ddd, J=11.60, 2.90, 2.59 Hz, 1 H) 6.77 (s, 1 H) 6.95 (dd, J=8.39, 2.29 Hz, 1 H) 7.02-7.09 (m, 3 H) 7.09-7.17 (m, 3 H) 7.39 (d, J=2.14 Hz, 1 H) 7.53 (d, J=1.22 Hz, 1 H).

reactant | 2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7,8-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-9(6H)-one | 0.075 mmol, 28 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CCCC2)=O)=N1)OC | C17H17ClN6O2
reactant | (4-fluorophenyl)magnesium bromide THF | 0.188 mmol, 0.188 mL | FC1=CC=C(C=C1)[Mg]Br.C1CCOC1
reactant | (4-fluorophenyl)magnesium bromide THF | 0.225 mmol, 0.225 mL | FC1=CC=C(C=C1)[Mg]Br.C1CCOC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-9-ol | 7.25 μmol, 3.4 mg, 9.7% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CCCC2)(O)C2=CC=C(C=C2)F)=N1)OC | C23H22ClFN6O2
